US04078076
140 g of stannous chloride were added over 30 minutes at room temperature to a suspension of 43.4 g of 4-(p-nitrophenyl)-tetrahydropyran in 435 ml of concentrated hydrochloric acid and the mixture was heated at 60° C for 2 hours and was cooled to 4° C. The mixture was filtered and the recovered crystals were washed with water and dissolved in a mixture of 300 g of iced water and 300 ml of 2N sodium hydroxide. The solution was stirred at room temperature and was then filtered. The recovered crystals were dissolved in methylene chloride and the aqueous alkaline phase was extracted with methylene chloride. The combined methylene chloride phases were washed with water and dried and evaporated to dryness. The residue was crystallized from isopropyl alcohol to obtain 27 g of 4-(p-aminophenyl)-tetrahydropyran melting at 122° C.

reactant | 4-(p-nitrophenyl)-tetrahydropyran | 43.4 g | [N+](=O)([O-])C1=CC=C(C=C1)C1CCOCC1 | C11H13NO3
solvent | hydrochloric acid | 435 ml | Cl | ClH
product | 4-(p-aminophenyl)-tetrahydropyran | 27 g | NC1=CC=C(C=C1)C1CCOCC1 | C11H15NO
